US08440689B2
C. Methyl 2,4-dichloro-6-(m-tolylamino)pyrimidine-5-carboxylate
To a solution of 2,4-dichloro-6-(m-tolylamino)pyrimidine-5-carboxylic acid (7.67 g, 25.7 mmol) in DMF (80 mL) was added NaHCO3 (3.30 g, 39.3 mmol) and iodomethane (1.605 mL, 25.7 mmol) at 0° C. The mixture was stirred at RT for 14 h, after which saturated aq NaHCO3 was added. The mixture was extracted with EtOAc. The organic layers were washed with aqueous NaHOC3, water, and brine, were dried over anhydrous Na2SO4, and then filtered through SiO2. The filtrate was concentrated under reduced pressure. The residue was triturated with isopropyl ether and filtered to give a first batch (5.28 g) of the title compound. The filtrate was concentrated, triturated with IPE, and filtered to give a second batch (0.66 g) of the title compound as a yellow solid (total 5.94 g, 74%). 1H NMR (500 MHz, CDCl3) δ ppm 2.38 (s, 3H), 4.00 (s, 3H), 7.02-7.03 (m, 1H), 7.27-7.33 (m, 2H), 7.44-7.46 (m, 1H), 10.30 (br s, 1H). [M+H] calc'd for C13H12Cl2N3O2, 312. found, 312.

reactant | 2,4-dichloro-6-(m-tolylamino)pyrimidine-5-carboxylic acid | 25.7 mmol, 7.67 g | ClC1=NC(=C(C(=N1)Cl)C(=O)O)NC=1C=C(C=CC1)C | C12H9Cl2N3O2
reactant | NaHCO3 | 39.3 mmol, 3.30 g | C(=O)(O)[O-].[Na+]
reactant | iodomethane | 25.7 mmol, 1.605 mL | IC | CH3I
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | Methyl 2,4-dichloro-6-(m-tolylamino)pyrimidine-5-carboxylate | 5.28 g | ClC1=NC(=C(C(=N1)Cl)C(=O)OC)NC=1C=C(C=CC1)C | C13H11Cl2N3O2
